US05128355
A mixture of 0.50 g of 1-(4-benzyloxybenzyl)-2-butyl-4-chloro-5-hydroxymethylimidazole, 0.50 g of 10% palladium/carbon and 40 mL of tetrahydrofuran was stirred at room temperature under hydrogen gas (1 atm.) for 6 hours. The mixture was filtered through Celite® under nitrogen, and the resulting solution was concentrated in vacuo. The crude product was extracted with hot chloroform. After cooling, the chloroform mixture was concentrated in vacuo, and the resulting solid was washed with hexane to afford 0.16 g of 1-(4-hydroxybenzyl)-2-butyl-4-chloro-5-hydroxymethylimidazole; NMR (200 MHz, DMSO-d6): δ 9.43 (s, 1H); 6.81 (A2B2, 4H); 5.21 (t, 1H); 5.10 (s, 2H); 4.33 (d, 2H); 2.47 (t, 2H); 1.44 (quint 2H); 1.23 (sext., 2H); 0.79 (t, 3H).

reactant | 1-(4-benzyloxybenzyl)-2-butyl-4-chloro-5-hydroxymethylimidazole | 0.50 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=NC(=C2CO)Cl)CCCC)C=C1 | C22H25ClN2O2
catalyst | palladium/carbon | 0.50 g | [Pd] | Pd
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(4-hydroxybenzyl)-2-butyl-4-chloro-5-hydroxymethylimidazole | 0.16 g | OC1=CC=C(CN2C(=NC(=C2CO)Cl)CCCC)C=C1 | C15H19ClN2O2
